US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid 4-(3-hexyl-ureido)-benzylamide
4-[4-(2-Aminoethyl)anilino]-N-(4-{[(hexylamino)carbonyl]amino}benzyl)-1-piperidinecarboxamide formate (0.29 g, 0.54 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane (0.220 g, 0.54 mmol) according to Procedure G (eluant: 20:1 going to 10:1 chloroform-methanol) to give the title compound (0.143 g, 0.159 mmol).

reactant | 4-[4-(2-Aminoethyl)anilino]-N-(4-{[(hexylamino)carbonyl]amino}benzyl)-1-piperidinecarboxamide formate | 0.54 mmol, 0.29 g | C(=O)O.NCCC1=CC=C(NC2CCN(CC2)C(=O)NCC2=CC=C(C=C2)NC(=O)NCCCCCC)C=C1
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | 0.54 mmol, 0.220 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid 4-(3-hexyl-ureido)-benzylamide | 0.159 mmol, 0.143 g | C(CCCCC)NC(NC1=CC=C(CNC(=O)N2CCC(CC2)NC2=CC=C(C=C2)CCNC[C@@H](COC2=CC=C(C=C2)O)O)C=C1)=O | C37H52N6O5
